US05780482
4-Aminophenol (27.3 g) in DMF (200 ml) was added dropwise over 30 minutes to a stirred suspension of sodium hydride (10.0 g, 60% dispersion in mineral oil) in DMF (200 ml) with stirring under nitrogen. When the evolution of hydrogen had ceased, 2-bromopyridine (39.5 g) was added and the resultant solution was heated at 120° C. for 6 hours. The DMF was removed under reduced pressure, the residue was dissolved in water (250 ml) and the mixture extracted with dichloromethane. The combined organic extracts were washed with water, 1M sodium hydroxide solution and then again with water and then with 2M hydrochloric acid. The acid extracts were basified and extracted with dichloromethane to give an oil which solidified on standing. This solid was triturated in petroleum ether, b.p. 40°-60° C./ethyl acetate (10:1) to give 4-(2-pyridyloxy)aniline, m.p. 64°-67° C.

reactant | 4-Aminophenol | 27.3 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | sodium hydride | 10.0 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-bromopyridine | 39.5 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4-(2-pyridyloxy)aniline | N1=C(C=CC=C1)OC1=CC=C(N)C=C1 | C11H10N2O
